US06069156
To a solution of methyl 2-amino-3-hydroxybenzoate (882 mg) in pyridine (2 ml) was added acetic anhydride (1.2 ml) and the mixture was stirred at 20° C. for 18 hours. The reaction mixture was diluted with diisopropyl ether, and the resulting solid was collected and washed with diisopropyl ether. The solid was triturated with diisopropyl ether to give methyl 2-acetamido-3-acetoxybenzoate (1.25 g) as solid.

reactant | methyl 2-amino-3-hydroxybenzoate | 882 mg | NC1=C(C(=O)OC)C=CC=C1O | C8H9NO3
reactant | acetic anhydride | 1.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-acetamido-3-acetoxybenzoate | 1.25 g | C(C)(=O)NC1=C(C(=O)OC)C=CC=C1OC(C)=O | C12H13NO5
